US04542158
To a solution of 1-chloroethyl 5-(2,4-difluorophenyl)salicylate (5.0 g) in about 40 ml of DMF is added portionwise 3.0 g of sodium ethyl carbonate. The reaction is stirred at room temperature and then concentrated in vacuo. The concentrate is partitioned between ether/ethyl acetate and acidified water. The organic layer is separated and the aqueous layer is again extracted with ether, the organic layers are pooled and washed with water followed by drying and concentration to the crude product. After further purification by chromatography as described in Example 1, the product is crystallized from hexane to afford pure 1-(ethoxycarbonyloxy)ethyl 5-(2,4-difluorophenyl)salicylate.

reactant | 1-chloroethyl 5-(2,4-difluorophenyl)salicylate | 5.0 g | FC1=C(C=CC(=C1)F)C1=CC=C(C(C(=O)OC(C)Cl)=C1)O | C15H11ClF2O3
reactant | sodium ethyl carbonate | 3.0 g | C(OCC)([O-])=O.[Na+]
solvent | DMF | about 40 ml | CN(C)C=O | C3H7NO
product | 1-(ethoxycarbonyloxy)ethyl 5-(2,4-difluorophenyl)salicylate | FC1=C(C=CC(=C1)F)C1=CC=C(C(C(=O)OC(C)OC(=O)OCC)=C1)O | C18H16F2O6
